US04213980
A solution of 2.5 g (0.025 mole) of phosgene in toluene is diluted with 50 ml of dry tetrahydrofurane and then cooled to a temperature of -40° C. A solution of 6.6 g (0.025 mole) of 2-methyl-4-(1-pyrrolidinyl)-2H-1,2-benzothiazine 1,1-dioxide and 2.5 g (0.025 mole) of triethylamine in 200 ml of tetrahydrofurane is then added slowly, with stirring, at a temperature of -40° to +55° C. in the course of 30 minutes. The reaction mixture is stirred for 12 hours at room temperature, then cooled to 10° C., and subsequently a suspension of 6.25 g (0.05 mole) of 3-amino-4-oxo-4H-1-benzopyrane in 100 ml of tetrahydrofurane is added slowly. The temperature of the reaction mixture is allowed to rise to room temperature. The reaction mixture is then stirred for 72 hours and poured into ice-water. The precipitate is collected by suction and crystallised from tetrahydrofurane, affording pure crystalline 2-methyl-N-(4-oxo-4H-1-benzopyran-3-yl)-4-(1-pyrrolidinyl)-2H-1,2-benzothiazine-3-carboxamide 1,1-dioxide. 2-Methyl-3,4-dihydro-4-oxo-N-(6-chloro-7-methyl-4-oxo-4H-1-benzopyran-3-yl)-2H-1,2-benzothiazine-3-carboxamide 1,1-dioxide can be obtained in analogeous manner starting from 2-methyl-N-(6-chloro-7-methyl-4-oxo.4H-1 -benzopyran-3-yl)-4-(1-pyrrolidinyl)-1,2-benzothiazine-3-carboxamide 1,1-dioxide.

reactant | phosgene | 0.025 mole, 2.5 g | C(=O)(Cl)Cl | CCl2O
reactant | 2-methyl-4-(1-pyrrolidinyl)-2H-1,2-benzothiazine 1,1-dioxide | 0.025 mole, 6.6 g | CN1S(C2=C(C(=C1)N1CCCC1)C=CC=C2)(=O)=O | C13H16N2O2S
reactant | triethylamine | 0.025 mole, 2.5 g | C(C)N(CC)CC | C6H15N
reactant | 3-amino-4-oxo-4H-1-benzopyrane | 0.05 mole, 6.25 g | NC1=COC2=C(C1=O)C=CC=C2 | C9H7NO2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | tetrahydrofurane | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofurane | 200 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofurane | 100 ml | O1CCCC1 | C4H8O
product | 2-methyl-N-(4-oxo-4H-1-benzopyran-3-yl)-4-(1-pyrrolidinyl)-2H-1,2-benzothiazine-3-carboxamide 1,1-dioxide | CN1S(C2=C(C(=C1C(=O)NC1=COC3=C(C1=O)C=CC=C3)N3CCCC3)C=CC=C2)(=O)=O | C23H21N3O5S
